US07642277B2
a) Methyl 2-chloro-β-hydroxybenzenepropanoate
Methyl acetate (5.09 mL, 64.0 mmol) was added dropwise to a cold (−78° C.) solution of LDA [prepared at 0° C. from i-Pr2NH (10.5 mL, 74.7 mmol) and 2.0 M n-BuLi in hexane (37.3 mL, 74.7 mmol)] in THF (50 mL). After 45 min, the enolate solution was added via cannula to a cold (−78° C.) solution of 2-chlorobenzaldehyde (3.00 g, 21.3 mmol) in THF (50 mL). The reaction mixture was stirred at −78° C. for 1 h. Aqueous saturated NH4Cl solution (15 mL) was then added and the mixture was allowed to warm slowly to room temperature. The mixture was concentrated under reduced pressure. The residue was taken in Et2O (300 mL) and the resulting solution was washed with water (2×50 mL) and brine (50 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was partially purified by flash chromatography (CH2Cl2:(CH3)2CO, 95:5) to give the title compound (2.9 g, 63% yield).

reactant | Methyl acetate | 64.0 mmol, 5.09 mL | C(C)(=O)OC | C3H6O2
reactant | LDA | 74.7 mmol, 2.0 M, 10.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-chlorobenzaldehyde | 21.3 mmol, 3.00 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Methyl 2-chloro-β-hydroxybenzenepropanoate | 2.9 g, 63% yield | ClC1=C(C=CC=C1)C(CC(=O)OC)O | C10H11ClO3
